US05055439
A 5-liter round-bottom flask equipped with an overhead stirrer, thermocouple, and reflux condenser with a nitrogen/vacuum outlet was charged with 1200 mL of tetrahydrofuran, 138.5 grams of 1,8-dichloroanthraquinone, and 35.6 grams of 18-crown-6. This solution was deoxygenated, stirred under nitrogen, and heated until a clear solution was obtained. A solution of 165.0 grams of sodium methoxide in 1000 mL of methanol (prepared from sodium metal) was then added over a period of 30 min. The reaction mixture was heated at reflux for 24 hours, at which time TLC (silica gel, 1:1 EtOAc/toluene) indicated that the reaction was complete. The reaction was cooled overnight in an ice bath and the crystallized product isolated by filtration (82% crude yield). This material was recrystallized from 1000 mL of toluene to afford 1,8-dimethoxyanthraquinone in an overall yield of 50%.

reactant | tetrahydrofuran | 1200 mL | O1CCCC1 | C4H8O
reactant | 1,8-dichloroanthraquinone | 138.5 grams | ClC1=CC=CC=2C(C3=CC=CC(=C3C(C12)=O)Cl)=O | C14H6Cl2O2
reactant | 18-crown-6 | 35.6 grams | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | sodium methoxide | 165.0 grams | C[O-].[Na+]
solvent | methanol | 1000 mL | CO | CH4O
solvent | EtOAc toluene | CCOC(=O)C.C1(=CC=CC=C1)C
product | 1,8-dimethoxyanthraquinone | yield of 50% | COC1=CC=CC=2C(C3=CC=CC(=C3C(C12)=O)OC)=O | C16H12O4
